US04096263
Conc. hydrochloric acid (2 drops) was added to a solution of 3,4-dihydroxyphenethylamine hydrochloride (1.8 g.) and (1,3,4-thiadiazol-2-yl)aminoacetaldehyde diethyl acetal (3.1 g.) in a mixture of ethanol (60 ml) and water (15 ml.). The resulting mixture was refluxed for 18 hours. After cooling, the reaction mixture was allowed to stand at ambient temperature. Precipitating crystals were collected by filtration and washed with ethanol to give 1-(1,3,4-thiadiazol-2-yl)aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.0 g.).

reactant | 3,4-dihydroxyphenethylamine hydrochloride | 1.8 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | (1,3,4-thiadiazol-2-yl)aminoacetaldehyde diethyl acetal | 3.1 g | C(C)OC(CNC=1SC=NN1)OCC | C8H15N3O2S
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 1-(1,3,4-thiadiazol-2-yl)aminomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.0 g | Cl.S1C(=NN=C1)NCC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C12H14N4O2S.ClH/c17-10-3-7-1-2-13-9(8(7)4-11(10)18)5-14-12-16-15-6-19-12;/h3-4,6,9,13,17-18H,1-2,5H2,(H,14,16);1H
